US06964961B2
C. (2S)-[7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-(2-morpholin-4-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound was prepared from (S)-4-pyrrolidin-2-ylmethyl-morpholine and 7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid by a procedure analogous to Example 21B. MS: 476.3 (MH+); HPLC Rf: 5.378 min.; HPLC purity: 92%.

reactant | (S)-4-pyrrolidin-2-ylmethyl-morpholine | N1[C@@H](CCC1)CN1CCOCC1 | C9H18N2O
reactant | 7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carboxylic acid | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)O | C17H13N3O2S
product | (2S)-[7-(2-Methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-(2-morpholin-4-ylmethyl-pyrrolidin-1-yl)-methanone | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)N2[C@@H](CCC2)CN2CCOCC2 | C26H29N5O2S
